US06833456B2
Step (iii) 7-Chloro-2-{[(4R)-3-fluoro-4-methoxypyrrolidin-1-yl]carbonyl}thieno [3,2-b]pyridine
This material was prepared by the coupling of lithium 7-chlorothieno[3,2-b]pyridine-2-carboxylate and (4R)-3-fluoro-4-methoxypyrrolidine in a manner as previously described for Example 1(a), step (iv). 1H NMR (CD3OD) δ 8.57 (1H, d, J=5.1 Hz), 7.94 (1H, d, J=7.2 Hz), 7.48 (1H, d, J=5.1 Hz), 5.27-5.05 (1H, m), 4.18-3.93 (4H, m), 3.78-3.75 (1H, m), 3.35 (3H, d, J=14.1 Hz). ESIMS (MH+): 315.05

reactant | lithium 7-chlorothieno[3,2-b]pyridine-2-carboxylate | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
reactant | (4R)-3-fluoro-4-methoxypyrrolidine | FC1CNC[C@H]1OC | C5H10FNO
product | 7-Chloro-2-{[(4R)-3-fluoro-4-methoxypyrrolidin-1-yl]carbonyl}thieno [3,2-b]pyridine | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2CC([C@@H](C2)OC)F | C13H12ClFN2O2S
